US06803372B2
(5) Preparation of 3-Amino-1-(4-benzyloxy-2-fluorophenyl)-pyrazole
MnO2 (2.66 g) was added to a solution of 3-amino-1-(4-benzyloxy-2-fluorophenyl) pyrazoline (3.86 g) in CH2Cl2 (40 mL), and the mixture was stirred at room temperature for 4 hours. The precipitate (MnO2) was filtered off, and the filtrate was concentrated. The residue was purified by flash chromatography on silica gel (EtOAc/hexane 1/9, 1/4, 1/2 and 1/1) and crystallization from EtOAc/hexane to yield 1.04 g of the title compound.

reactant | 3-amino-1-(4-benzyloxy-2-fluorophenyl) pyrazoline | 3.86 g | NC=1NN(CC1)C1=C(C=C(C=C1)OCC1=CC=CC=C1)F | C16H16FN3O
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 2.66 g | O=[Mn]=O
product | 3-Amino-1-(4-benzyloxy-2-fluorophenyl)-pyrazole | 1.04 g | NC1=NN(C=C1)C1=C(C=C(C=C1)OCC1=CC=CC=C1)F | C16H14FN3O
